US06162832
To a solution of 4-(3,4-difluorobenzyloxy)phenol (1.00 g, 4.2 mmol) in N,N-dimethylformamide (20 ml) was added potassium tert-butoxide (0.47 g, 4.2 mmol), followed by stirring at room temperature for 30 minutes. To the reaction solution was added 1-fluoro-2-nitrobenzene (0.60 g, 4.3 mmol), followed by stirring at 150° C. for 5 hours. After allowing to stand overnight, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution and dried. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; chloroform) to give 1-[4-(3,4-difluorobenzyloxy)phenoxy]-2-nitrobenzene (1.41 g).

reactant | 4-(3,4-difluorobenzyloxy)phenol | 4.2 mmol, 1.00 g | FC=1C=C(COC2=CC=C(C=C2)O)C=CC1F | C13H10F2O2
reactant | potassium tert-butoxide | 4.2 mmol, 0.47 g | CC(C)([O-])C.[K+]
reactant | 1-fluoro-2-nitrobenzene | 4.3 mmol, 0.60 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[4-(3,4-difluorobenzyloxy)phenoxy]-2-nitrobenzene | 1.41 g | FC=1C=C(COC2=CC=C(OC3=C(C=CC=C3)[N+](=O)[O-])C=C2)C=CC1F | C19H13F2NO4
